US05034395
10.2 Grams of methyl 2-piperazinylethyl 2,6-dimethyl- 4-(3-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylate and 4.5 g of 3-phenylpropargyl bromide in 100 ml of acetonitrile were stirred at 30° C. for 5 hours under heating condition. After the reaction was finished, chloroform was added to the reaction mixture, and the mixture was washed with a saturated sodium hydrogen carbonate aqueous solution and water in this order, and dried with anhydrous sodium sulfate. The dried chloroform extract was concentrated by removing the solvent by evaporation, the residue thus obtained was purified by means of a silica gel column chromatography (eluent: dichloromethane-methanol:dichloromethane=1:100). The product thus purified was then converted into a hydrochloride by adding hydrochloric acid-dioxane, and recrystallized from ethyl acetate-methanol-water to yield 1.2 g of methyl 2-[4-(3-phenyl-2-propynyl)-1-piperazinyl]ethyl 2,6-dimethyl-4-(3-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylate in the form of light yellow needle-like crystals. Melting point: 217°-220° C.

reactant | methyl 2-piperazinylethyl 2,6-dimethyl- 4-(3-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylate | CC=1NC(=C(C(C1C(=O)OC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCCN1CCNCC1)C | C22H28N4O6
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | methyl 2-[4-(3-phenyl-2-propynyl)-1-piperazinyl]ethyl 2,6-dimethyl-4-(3-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylate | 1.2 g | CC=1NC(=C(C(C1C(=O)OC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCCN1CCN(CC1)CC#CC1=CC=CC=C1)C | C31H34N4O6
